US07732460B2
(d) 6,7-Dihydro[1,4]oxathiino[2,3-c]pyridazine-3-carbaldehyde
A solution of 3-ethenyl-6,7-dihydro[1,4]oxathiino[2,3-c]pyridazine (320 mg) in 1,4-dioxane/water (20 ml/5 ml) was treated with an aqueous solution of osmium tetroxide (4% w/v, 2 ml) and sodium periodate (1.08 g), initially stirred in an ice-bath, then allowed to warm to room temperature. After 2.5 hours the mixture was evaporated to dryness and dissolved in 1,4-dioxane and chloroform. Silica gel was added and the mixture was evaporated to dryness, added to a silica column (50 g) and chromatographed, eluting with 0-100% ethyl acetate in hexane, to afford a white solid (116 mg, 36%).

reactant | 3-ethenyl-6,7-dihydro[1,4]oxathiino[2,3-c]pyridazine | 320 mg | C(=C)C1=CC2=C(N=N1)OCCS2 | C8H8N2OS
reactant | sodium periodate | 1.08 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane water | 20 ml | O1CCOCC1.O
catalyst | osmium tetroxide | 2 ml | [Os](=O)(=O)(=O)=O
product | 6,7-Dihydro[1,4]oxathiino[2,3-c]pyridazine-3-carbaldehyde | 116 mg, 36% | N1=NC(=CC2=C1OCCS2)C=O | C7H6N2O2S
